US07851473B2
(3) 1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperidine
1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperidine dihydrochloride (1.00 g, 2.99 mmol) was dissolved in water. The solution was neutralized with 1N aqueous sodium hydroxide solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over magnesium sulfate anhydrous, and the solvent distilled off under reduced pressure to give the desired product (780 mg, 99.4%) as an oil.

reactant | 1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperidine dihydrochloride | 2.99 mmol, 1.00 g | Cl.Cl.FC=1C=C(C=CC1)C=1N=C(SC1)N1CCCCC1
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperidine | 780 mg, 99.4% | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCCCC1 | C14H15FN2S
